* source PROJECT01-JANSEN-RAUTENBERG
V_VDDC         VCC 0 3.3Vdc
M_M2         G G 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
M_M1         OUT G 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
I_Iref         VCC G DC 50uAdc  
V_Vt         OUT 0 DC 0.1Vdc AC 1Vac 
